US08076517B2
(S)—N′-(1-tert-Butyl-butyl)-hydrazinecarboxylic acid tert-butyl ester (1 g, 4.09 mmoles) was dissolved in ca. 3 mL methylene chloride in a vial with a magnetic stir bar. A solution of 0.8 g K2CO3 (5.79 mmoles) in ca. 2 mL water was added, followed by 0.81 g (4.80 mmoles) 3,5-dimethylbenzoyl chloride. The reaction was stirred overnight, first on ice, and then allowed to warm to room temperature. Several mL each water and methylene chloride were then added to dissolve all solids. The aqueous layer was removed and the organic layer was dried over solid MgSO4. TLC indicated that the reaction was ca. 95% complete. The mixture was filtered through some glass wool into a vial. Solvent was evaporated with a stream of N2, chasing with 3:1 hexanes:ether and pentane. The residue was manipulated with a spatula to initiate crystallization, and after complete solidification, was triturated thrice with 2-3 mL pentane in a small fritted glass funnel. After drying in air, 300 mg (19.5%) (S)—N′-(1-tert-Butyl-butyl)-N′-(3,5-dimethyl-benzoyl)-hydrazinecarboxylic acid tert-butyl ester was obtained, indicated by TLC to be quite pure, chiral HPLC indicated e.e=93.3%. The product was dried in a vacuum oven at 50° C. for melting point determination. Rf=0.42 (4:1 hexanes:ethyl acetate, UV (strong), 12 (weak) visualization); mp=115.5-117.5° C.; [α]25589 −30.18 (c 2.02, CH3OH), 1H NMR (400 MHz, CDCl3) δ 7.15-7.03 (m, 3H), 6.07+6.00 (s+d, 1H), 4.52+4.40 (2 dd, 1H), 2.32+2.28+2.23 (3 s, 6H), 1.85-0.89 (m, 25H).

reactant | (S)—N′-(1-tert-Butyl-butyl)-hydrazinecarboxylic acid tert-butyl ester | 4.09 mmoles, 1 g | C(C)(C)(C)OC(=O)NN[C@@H](CCC)C(C)(C)C | C13H28N2O2
reactant | K2CO3 | 5.79 mmoles, 0.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,5-dimethylbenzoyl chloride | 4.80 mmoles, 0.81 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | methylene chloride | ca. 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | ca. 2 mL | O | H2O
product | (S)—N′-(1-tert-Butyl-butyl)-N′-(3,5-dimethyl-benzoyl)-hydrazinecarboxylic acid tert-butyl ester | 300 mg, 19.5% | C(C)(C)(C)OC(=O)NN(C(C1=CC(=CC(=C1)C)C)=O)[C@@H](CCC)C(C)(C)C | C22H36N2O3
